US07569592B2
2-Bromo-6-hydrazinopyridine (500 mg, 2.7 mmol) was dissolved in ethanol (10 mL) and 2-(2-pyridyl)malondialdehyde(403 mg, 2.7 mmol) was added. The reaction was heated at 70° C. for 16 h. The solvents were removed the ethanol in vacuo and the residue was chromatographed on silica gel eluting with hexanes:EtOAc (1:4) to afford 2-bromo-6-(4-pyridin-2-yl-1H-pyrazol-1-yl)pyridine as a light yellow solid. 1H-NMR (CDCl3, 300 MHz) δ 9.0 (s, 1H), 8.62-8.61 (d, J=3 Hz 1H), 8.27 (s, 1H), 7.97-7.94 (d, J=9 Hz, 1H), 7.74-7.57 (m, 3H), 7.39-7.37 (d, J=3 Hz, 1H) 7.19-7.15 (t, 1H). MS (ESI) 301.0 (M++H), 303.0 (M+H+2).

reactant | 2-Bromo-6-hydrazinopyridine | 2.7 mmol, 500 mg | BrC1=NC(=CC=C1)NN | C5H6BrN3
reactant | 2-(2-pyridyl)malondialdehyde | 2.7 mmol, 403 mg | C1=CC=NC(=C1)C(C=O)C=O | C8H7NO2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-bromo-6-(4-pyridin-2-yl-1H-pyrazol-1-yl)pyridine | BrC1=NC(=CC=C1)N1N=CC(=C1)C1=NC=CC=C1 | C13H9BrN4
